US06194425B1
Phosphorus oxychloride (4 mL, 43 mmol) was reacted with N,N-dimethylformamide (15 mL) while chilling in an ice bath. This mixture was added to a solution of 3-nitro[1,5]naphthyridin-4-ol (6.9 g, 36.1 mmol) in N,N-dimethylformamide (60 mL). The reaction mixture was warmed in an oil bath to 60° C. After 3 hours the reaction mixture was poured into ice water. The resulting precipitate was isolated by filtration and then washed with water. The wet crude 5-chloro-3-nitro[1,5]naphthyridine was suspended in dichloromethane (150 mL). Diisopropylethylamine was added followed by the slow addition of hydroxyisobutylamine (3.4 g, 40 mmol). The reaction mixture was refluxed for 2 hours and then combined with water (˜100 mL). The resulting precipitate was isolated by filtration to provide 7.2 g of 1,1-dimethyl-2-[(3-nitro[1,5]naphthyridin-4-yl)amino]ethanol. A small sample was recrystallized from isopropanol to provide a pure sample, m.p. 184.5-186° C. Analysis: Calculated for C12H14N4O3: % C, 54.96; % H, 5.38; % N, 21.36; Found: % C, 54.63; % H, 5.36: % N, 21.51.

reactant | Phosphorus oxychloride | 43 mmol, 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-nitro[1,5]naphthyridin-4-ol | 36.1 mmol, 6.9 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1O | C8H5N3O3
reactant | hydroxyisobutylamine | 40 mmol, 3.4 g | ONCC(C)C | C4H11NO
reactant | water | ˜100 mL | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1,1-dimethyl-2-[(3-nitro[1,5]naphthyridin-4-yl)amino]ethanol | 7.2 g | CC(CNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-])(O)C | C12H14N4O3
